US08609644B2
17,17-Bis(ethylendioxy)-5α,6α-epoxyandrostane was prepared in 45% yield from 3,3:17,17-bis(ethylendioxy)-5-androstene by the procedure described above for the preparation of 3β-hydroxy-5α,6α-epoxyandrostan-17-one (Prepn. 4). The crude product was purified by flash chromatography (SiO2, n-hexane/EtOAc 80/20). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 3.92-3.75 (m, 8H), 2.68 (m, 1H), 2.56 (d, 1H), 1.99-1.06 (m, 18H), 1.09 (s, 3H), 0.78 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-5-androstene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@]3(C)[C@H]1CC4 | C23H34O4
reactant | 3β-hydroxy-5α,6α-epoxyandrostan-17-one | O[C@@H]1C[C@]23[C@H](C[C@H]4[C@@H]5CCC([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)=O)O3 | C19H28O3
product | 17,17-Bis(ethylendioxy)-5α,6α-epoxyandrostane | 45% yield | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@H]3[C@]2(CCCC[C@]2(C)[C@H]1CC4)O3 | C23H34O5
